US05580986
N-[1-(4-Chloro-5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-nitro-5-pyrazolyl]acetamide
1.3 g (5.0 mmol) 5-Amino-1-(4-chloro-5-difluoromethoxy-1-methyl-3-pyrazolyl)pyrazole was dissolved in 20 ml acetic acid and treated with 0.55 g (5.4 mmol) acetic anhydride. After stirring for 2 hours at room temperature the reaction solution was cooled to 0° C. and 0.4 g (6.4 mmol) concentrated nitric acid added. After stirring for 8 hours at room temperature, the reaction mixture was poured into ice water and extracted with ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate 1:1).

reactant | 5-Amino-1-(4-chloro-5-difluoromethoxy-1-methyl-3-pyrazolyl)pyrazole | 5.0 mmol, 1.3 g | NC1=CC=NN1C1=NN(C(=C1Cl)OC(F)F)C | C8H8ClF2N5O
reactant | acetic anhydride | 5.4 mmol, 0.55 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 6.4 mmol, 0.4 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N-[1-(4-Chloro-5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-nitro-5-pyrazolyl]acetamide | ClC=1C(=NN(C1OC(F)F)C)N1N=CC(=C1NC(C)=O)[N+](=O)[O-] | C10H9ClF2N6O4
